US05476873
A solution of 2-hydroxybenzaldehyde (10.00 g, 81.9 mmol), 2-bromopyridine (26.91 g, 170.3 mmol), potassium carbonate (17.54 g, 126.9 mmol), and copper (2.60 g, 40.95 mmol) in pyridine (80 mls) was refluxed for 3 days. The reaction was then cooled to r.t., filtered through Celite, diluted with ethylacetate (500 mls) and washed with water (3×300 mls). The organic was then dried with MgSO4 and concentrated. The resulting residue was chromatographed (silica gel, 9:1 hexanes:ether) to afford 16.21 g (99%) of 2-(2-pyridyloxy)benzaldehyde as a yellow oil.

reactant | 2-hydroxybenzaldehyde | 81.9 mmol, 10.00 g | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | 2-bromopyridine | 170.3 mmol, 26.91 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | potassium carbonate | 126.9 mmol, 17.54 g | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 80 mls | N1=CC=CC=C1 | C5H5N
catalyst | copper | 40.95 mmol, 2.60 g | [Cu] | Cu
product | 2-(2-pyridyloxy)benzaldehyde | 16.21 g, 99% | N1=C(C=CC=C1)OC1=C(C=O)C=CC=C1 | C12H9NO2
